US09314464B2
Intermediate. 1-Benzylidene-2-isopropylhydrazine
To a round-bottom flask containing anhydrous sodium acetate (8.2 g, 0.1 mol) in 125 ml 50% ethanol was added isopropylhydrazine HCl salt (11.1 g, 0.1 mole) and benzaldehyde (10.6 g, 0.1 mole). The mixture was stirred at rt for 20 h. The reaction was extracted with ether (3×250 ml). The organic layers were combined and washed with aqueous sodium bicarbonate solution and brine and dried over sodium sulfate. Filtration, concentration, and co-evaporation with toluene (3×) provided the title compound as an oil. MS m/z 163.3 (M+1).

reactant | sodium acetate | 0.1 mol, 8.2 g | C(C)(=O)[O-].[Na+]
reactant | isopropylhydrazine HCl salt | 0.1 mole, 11.1 g | Cl.C(C)(C)NN
reactant | benzaldehyde | 0.1 mole, 10.6 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 1-Benzylidene-2-isopropylhydrazine | C(C1=CC=CC=C1)=NNC(C)C | C10H14N2
